US06410732B2
To a stirred solution of 15.29 g of 3-methoxyacridone (67.9 mmol) in 200 mL of diethyl ether was added 7.73 g of LiAlH4 slowly portionwise. Once evolution of H2 ceased, 200 mL of dry toluene was added under inert atmosphere and the reaction was stirred at reflux for 2 h. The reaction mixture was cooled to 0° C. and dropwise addition of 8.0 mL of water, 8.0 mL of 15% NaOH (aq) and 24.0 mL of water were performed sequentially. 500 mL of CH2Cl2 was added and the resultant precipitate was filtered, washed with 500 mL of CH2Cl2 and discarded. The filtrate was concentrated in vacuo, resuspended in hexanes, and again concentrated to afford 14.06 g of 3-methoxyacridan (98%).

reactant | 3-methoxyacridone | 67.9 mmol, 15.29 g | COC=1C=CC=2C(C3=CC=CC=C3NC2C1)=O | C14H11NO2
reactant | LiAlH4 | 7.73 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
reactant | NaOH | 8.0 mL | [OH-].[Na+]
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
solvent | water | 24.0 mL | O | H2O
solvent | water | 8.0 mL | O | H2O
product | 3-methoxyacridan | 14.06 g, 98% | COC=1C=CC=2CC3=CC=CC=C3NC2C1 | C14H13NO
